US08466284B2
6-[1-(4-Cyanophenyl)-1H-pyrazol-5-yl]-5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide Form A
Ammonia solution (1.12 L, 7M in MeOH, 10 eq) was added to methyl 6-[1-(4-cyanophenyl)-1H-pyrazol-5-yl]-5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylate (377 g) and MeOH (3.8 L, 10 vols) under nitrogen. The suspension was stirred at ambient temperature for 36 h. The mixture was then filtered, washed with MeOH (2×754 ml) and dried under vacuum. The crude material was dissolved in acetone (10.7 L) at 45° C., and filtered to remove particulates. The filtrate was is concentrated to a volume of about 3.8 L. The resulting slurry was diluted by the addition of methyl isobutyl ketone (10 L), and a further 3.2 L of solvent were removed by distillation. Further methyl isobutyl ketone (7.8 L) was added to achieve a total of about 53 relative volumes (with respect to substrate). The resulting slurry was heated to 53-60° C. and held within this temperature range until in-processes testing (DSC) showed that the desired polymorph had been achieved (62 hours for this particular batch). The slurry was cooled to 25° C. over 4 hours, and then held at 20-25° C. for 36 hours. The product was collected by filtration, and the cake washed with methyl isobutyl ketone (1.9 L). The cake was dried in a vacuum oven at 55° C. until constant weight was achieved. After drying, the title compound (310.8 g, 87%) was obtained as a pale yellow crystalline solid.

reactant | Ammonia | 7M, 1.12 L, 10 eq | N | H3N
reactant | methyl 6-[1-(4-cyanophenyl)-1H-pyrazol-5-yl]-5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylate | 377 g | C(#N)C1=CC=C(C=C1)N1N=CC=C1C1=C(N(C(C(=N1)C(=O)OC)=O)C1=CC(=CC=C1)C(F)(F)F)C | C24H16F3N5O3
solvent | MeOH | 3.8 L | CO | CH4O
product | 6-[1-(4-Cyanophenyl)-1H-pyrazol-5-yl]-5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide | 310.8 g, 87% | C(#N)C1=CC=C(C=C1)N1N=CC=C1C1=C(N(C(C(=N1)C(=O)N)=O)C1=CC(=CC=C1)C(F)(F)F)C | C23H15F3N6O2
